US09359367B2
Step 4: 1-(4-fluorophenyl)-3,3-dimethylpiperazine
To a stirred solution of 1-benzyl-4-(4-fluorophenyl)-2,2-dimethylpiperazine (4.5 g, 15.08 mmol) in methanol and ethyl acetate (5:1, 60 ml) at 25° C. was added 10% palladium on charcoal (1.605 g). The reaction mixture was stirred at 50° C. for 5 h. The progress of reaction was monitored by TLC. The reaction mixture was cooled to room temperature, filtered through a celite bed, washed with ethyl acetate (2×50 ml). The combined filtrate was concentrated under reduced pressure to obtain the title compound which was used in the next step without further purification.

reactant | 1-benzyl-4-(4-fluorophenyl)-2,2-dimethylpiperazine | 15.08 mmol, 4.5 g | C(C1=CC=CC=C1)N1C(CN(CC1)C1=CC=C(C=C1)F)(C)C | C19H23FN2
solvent | methanol | CO | CH4O
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 1.605 g | [Pd] | Pd
product | 1-(4-fluorophenyl)-3,3-dimethylpiperazine | FC1=CC=C(C=C1)N1CC(NCC1)(C)C | C12H17FN2
